US07732596B2
To a solution of 4-(2-phenylethyl)benzo[b]thiophene (0.4 g) in tetrahydrofuran (15 mL) was added n-butyllithium (2.44 mol/L n-hexane solution, 0.69 mL) at −78° C. under an argon atmosphere, and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added a solution of 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone (0.82 g) in tetrahydrofuran (3 mL), and the mixture was stirred under ice-cooling for 10 minutes. The reaction mixture was poured into a saturated ammonium chloride aqueous solution, and the mixture was extracted with diethylether. The extract washed with water and brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1) to give 2,3,4,6-tetra-O-benzyl-1-[4-(2-phenylethyl)benzo[b]-thiophene-2-yl]-D-glucopyranose (1.02 g). This material was dissolved in acetonitrile (13 mL) and triethylsilane (0.42 mL) was added to the solution. Boron trifluoride diethylether complex (0.18 mL) was added to the solution at −20° C., and the mixture was stirred at room temperature for 1 hour. A saturated potassium carbonate aqueous solution was added to the reaction mixture, and the mixture was extracted with diethyl ether. The extract washed with water and brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=8/1) to give the title compound (0.58 g).

reactant | 4-(2-phenylethyl)benzo[b]thiophene | 0.4 g | C1(=CC=CC=C1)CCC1=CC=CC=2SC=CC21 | C16H14S
reactant | n-butyllithium | 2.44 mol/L, 0.69 mL | C(CCC)[Li]
reactant | 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone | 0.82 g | C(C1=CC=CC=C1)O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-tetra-O-benzyl-1-[4-(2-phenylethyl)benzo[b]-thiophene-2-yl]-D-glucopyranose | 1.02 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC2=C(S1)C=CC=C2CCC2=CC=CC=C2 | C50H48O6S
